US08309720B2
2-acetyl-3-ethoxy-acrylonitrile
3-Oxo-butyronitrile (4.94 g, 60.9 mmol), triethylorthoformate (15.0 mL, 90.2 mmol), and acetic anhydride (0.3 mL, 2.7 mmol) were warmed to about 95-115° C. for about 1 hours, over which time a distillate was collected and discarded. After cooling the resultant mixture to room temperature, hexanes were added and a precipitate formed. The resultant mixture was filtered and the solids washed with hexanes, to yield the title compound as a solid.

reactant | 3-Oxo-butyronitrile | 60.9 mmol, 4.94 g | O=C(CC#N)C | C4H5NO
reactant | triethylorthoformate | 90.2 mmol, 15.0 mL | C(C)OC(OCC)OCC | C7H16O3
reactant | acetic anhydride | 2.7 mmol, 0.3 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 2-acetyl-3-ethoxy-acrylonitrile | C(C)(=O)C(C#N)=COCC | C7H9NO2
